US09079911B2
Step A: (5-Benzylhexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)(4-methoxy-2-(2H-1,2,3-triazol-2-yl)phenyl)methanone.
To a mixture of 2-benzyloctahydropyrrolo[3,4-c]pyrrole (282 mg, 1.4 mmol), 4-methoxy-2-(2H-1,2,3-triazol-2-yl)benzoic acid (306 mg, 1.4 mmol), and TEA (0.21 mL, 1.5 mmol) in DMF (7.5 mL) was added HATU (583 mg, 1.5 mmol). After 1 h, the reaction mixture was diluted with EtOAc and washed with water. The aqueous layer was then extracted with EtOAc (1×). The combined organics were dried (Na2SO4) and concentrated to give a residue. Purification via Agilent prep system (Basic) gave 327 mg (58%) of the title compound as a clear oil. 1H NMR (CDCl3): 7.79 (s, J=6.5 Hz, 2H), 7.50 (d, J=5.0 Hz, 1H), 7.36 (d, J=8.5 Hz, 1H), 7.34-7.21 (m, 5H), 6.95 (dd, J=8.5, 2.5 Hz, 1H), 3.93 (s, 3H), 3.86-3.72 (m, 1H), 3.65-3.46 (m, 3H), 3.13 (s, 1H), 2.90-2.74 (m, 2H), 2.74-2.59 (m, 2H), 2.57-2.39 (m, 2H), 2.16 (dd, J=9.2, 4.2 Hz, 1H).

reactant | 2-benzyloctahydropyrrolo[3,4-c]pyrrole | 1.4 mmol, 282 mg | C(C1=CC=CC=C1)N1CC2CNCC2C1 | C13H18N2
reactant | 4-methoxy-2-(2H-1,2,3-triazol-2-yl)benzoic acid | 1.4 mmol, 306 mg | COC1=CC(=C(C(=O)O)C=C1)N1N=CC=N1 | C10H9N3O3
reactant | HATU | 1.5 mmol, 583 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 7.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (5-Benzylhexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)(4-methoxy-2-(2H-1,2,3-triazol-2-yl)phenyl)methanone | 327 mg, 58% | C(C1=CC=CC=C1)N1CC2C(C1)CN(C2)C(=O)C2=C(C=C(C=C2)OC)N2N=CC=N2 | C23H25N5O2
